US04873236
11-[[[2-[3-[(Diethylamino)methyl]-piperidin-1-yl]ethyl]amino]carbonyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
Prepared analogously to Example 2 from 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and 2-[3-[(diethylamino)methyl]-pyrrolidin-1-yl]ethanamine in a yield of 32% of theory. Colourless crystals, m.p. 184°-185° C. (acetonitrile).

reactant | 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C13H8ClN3O2
reactant | 2-[3-[(diethylamino)methyl]-pyrrolidin-1-yl]ethanamine | C(C)N(CC)CC1CN(CC1)CCN | C11H25N3
reactant | acetonitrile | C(C)#N | C2H3N
product | 11-[[[2-[3-[(Diethylamino)methyl]-piperidin-1-yl]ethyl]amino]carbonyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | yield of 32% | C(C)N(CC)CC1CN(CCC1)CCNC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C25H34N6O2
